US04978663
N-[1-(1,6-Dihydro-6-oxo-3-pyridinyl)cyclohexyl]formamide hydrochloride
Concentrated sulfuric acid (150 ml) was added dropwise over 45 minutes to a suspension of 5-(1-hydroxycyclohexyl)-2(1H)-pyridinone (37.0 g) and potassium cyanide (370 g) in 770 ml of trifluoroacetic acid at 0° C. The resulting suspension was stirred at room temperature for 17 hours and then cooled to 0° C., and diethyl ether was added slowly. The solvent was decanted, and the solids were washed with diethyl ether. The product was then dissolved in methanol and neutralized with poly-4-vinylpyridine. The polymer was removed by filtration, and the filtrate was concentrated to yield a white foam, which was dissolved in methanol and acidified with ethereal HCl. The solvent was removed in vacuo to afford a foam (43.2 g) which was used in subsequent reactions without further purification.

reactant | sulfuric acid | 150 ml | S(O)(O)(=O)=O | H2O4S
reactant | 5-(1-hydroxycyclohexyl)-2(1H)-pyridinone | 37.0 g | OC1(CCCCC1)C=1C=CC(NC1)=O | C11H15NO2
reactant | potassium cyanide | 370 g | [C-]#N.[K+]
reactant | HCl | Cl | ClH
reactant | trifluoroacetic acid | 770 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methanol | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-[1-(1,6-Dihydro-6-oxo-3-pyridinyl)cyclohexyl]formamide hydrochloride | 43.2 g | Cl.O=C1C=CC(=CN1)C1(CCCCC1)NC=O | InChI=1S/C12H16N2O2.ClH/c15-9-14-12(6-2-1-3-7-12)10-4-5-11(16)13-8-10;/h4-5,8-9H,1-3,6-7H2,(H,13,16)(H,14,15);1H
